US06509329B1
Synthesis of 2-Methyl-4-(3,4,5-trimethoxyphenyl)pyridine
Nickel chloride (3.0 mg) was added to THF (1 mL) under an argon atmosphere, and the mixture was kept at 0° C. To the mixture, a THF solution (0.38 mL) of 0.93 M bromomethylmagnesium was slowly added, and a THF solution (2 mL) of 2-chloro-4-(3,4,5-Trimethoxyphenyl)pyridine (50 mg) was then slowly added. The mixture was stirred at 0° C. for 10 minutes and then at 70° C. for 1.5 hours. A small amount was diluted hydrochloric acid was added to the reaction mixture at 0° C. to conduct extraction with ethyl acetate. The resultant organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=15:1) to obtain the title compound.

reactant | bromomethylmagnesium | 0.93 M | BrC[Mg]
reactant | 2-chloro-4-(3,4,5-Trimethoxyphenyl)pyridine | 50 mg | ClC1=NC=CC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C14H14ClNO3
reactant | hydrochloric acid | Cl | ClH
catalyst | Nickel chloride | 3.0 mg | [Ni](Cl)Cl
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 0.38 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 2-Methyl-4-(3,4,5-trimethoxyphenyl)pyridine | CC1=NC=CC(=C1)C1=CC(=C(C(=C1)OC)OC)OC | C15H17NO3
